US05294623
1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbonitrile
2.13 g of 1-bis(4-fluorophenyl)methoxy-2-chloroethane and 0.95 g of 4-cyanopiperidine were dissolved in 15 ml of dimethylformamide. After this, 4.00 g of anhydrous sodium carbonate and 0.08 g of sodium iodide were added to the resulting solution, and the mixture was stirred for 4 hours at 130° C. At the end of this time, the mixture was poured into ice water and extracted with ethyl acetate. The oily extract obtained was purified by silica gel chromatography. Elution with a 2:1 by volume mixture of ethyl acetate and hexane afforded 2.36 g (yield 88%) of the title compound.

reactant | 1-bis(4-fluorophenyl)methoxy-2-chloroethane | 2.13 g | FC1=CC=C(C=C1)C(OCCCl)C1=CC=C(C=C1)F | C15H13ClF2O
reactant | 4-cyanopiperidine | 0.95 g | C(#N)C1CCNCC1 | C6H10N2
reactant | sodium carbonate | 4.00 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | sodium iodide | 0.08 g | [I-].[Na+]
product | 1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbonitrile | 2.36 g, yield 88% | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C#N)C1=CC=C(C=C1)F | C21H22F2N2O
